US04880819
Preparation of 4-{N-[(2-oxo-1-pyrrolidinyl)acetyl]-glycylamino}pyridine
40.9 g of (2-oxo-1-pyrrolidinyl)acetic acid was dissolved in 300 ml of dimethylformamide and the solution was cooled to 0° C. Then, a solution of 78.7 g of dicylohexylcarbodiimide dissolved in 80 ml of dimethylformamide was added thereto while maintaining the temperature at -2° C. to +1° C. After stirring for 5 minutes, 28.8 g of 4-(glycylamino)pyridine dissolved in 50 ml of dimethylformamide was added while maintaining the temperature at 0° to 3° C. and then the reaction liquid was allowed to stand so as to rise its temperature to room temperature over 2 hours. The liquid was cooled with ice and 200 ml of ice water was added dropwise thereto. The precipitated dicyclohexylurea was filtered off and the solvent was distilled off under reduced pressure. 200 ml of ethanol was added to the residue and stirred and the insoluble matter was filtered off. This insoluble matter was dissolved in 130 ml of water and 50 ml of methanol with warming and then the solution was concentraterd to about 60 ml. After 300 ml of ethanol was added, again the solution was concentrated to about 100 ml and allowed to stand overnight to form the precipitate, which was filtered off to obtain the titled compound.

reactant | (2-oxo-1-pyrrolidinyl)acetic acid | 40.9 g | O=C1N(CCC1)CC(=O)O | C6H9NO3
reactant | dicylohexylcarbodiimide | 78.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-(glycylamino)pyridine | 28.8 g | NCC(=O)NC1=CC=NC=C1 | C7H9N3O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-{N-[(2-oxo-1-pyrrolidinyl)acetyl]-glycylamino}pyridine | O=C1N(CCC1)CC(=O)NCC(=O)NC1=CC=NC=C1 | C13H16N4O3
